US06500863B1
N-Methyl-2-acetyl-6-chloro-3-nitrobenzenesulfonamide.
To a mixture of 2-acetyl-6-chloro-3-nitrobenzenesulfonamide (300 mg, 1.02 mmol) and sodium hydride (53 mg, 1.32 mmol) in 10 mL of N,N-dimethylformamide, iodomethane (70 μL, 1.12 mmol) was added. The mixture was stirred at room temperature for 66 hours. The mixture was acidified with 1 N aq. HCl, then extracted with ethyl acetate. The solvent was concentrated to give the crude material. Column chromatography on silica gel, eluting with ethyl acetate/hexane/acetic acid (50/49/1, v/v/v), gave the desired product (185 mg, 59%). EI-MS (m/z) 307.3, 309.3 (M−).

reactant | 2-acetyl-6-chloro-3-nitrobenzenesulfonamide | 1.02 mmol, 300 mg | C(C)(=O)C1=C(C(=CC=C1[N+](=O)[O-])Cl)S(=O)(=O)N | C8H7ClN2O5S
reactant | sodium hydride | 1.32 mmol, 53 mg | [H-].[Na+]
reactant | iodomethane | 1.12 mmol, 70 μL | IC | CH3I
reactant | HCl | 1 N | Cl | ClH
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | N-Methyl-2-acetyl-6-chloro-3-nitrobenzenesulfonamide | 185 mg, 59% | CNS(=O)(=O)C1=C(C(=CC=C1Cl)[N+](=O)[O-])C(C)=O | C9H9ClN2O5S
